US06964961B2
C. (2S)-[2-(1-Hydroxy-1-methyl-ethyl)-pyrrolidin-1-yl]-[7-(2-methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-methanone
The title compound was prepared from 7-(2-methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridine-2-carboxylic acid and (S)-2-pyrrolidin-2-yl-propan-2-ol by a procedure analogous to Example 21B. MS: 435.3; HPLC Rf: 4.134 min.; HPLC purity 95%.

reactant | 7-(2-methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridine-2-carboxylic acid | CC=1NC2=CC=C(C=C2C1)NC1=C2C(=NC=C1)C=C(S2)C(=O)O | C17H13N3O2S
reactant | (S)-2-pyrrolidin-2-yl-propan-2-ol | N1[C@@H](CCC1)C(C)(C)O | C7H15NO
product | (2S)-[2-(1-Hydroxy-1-methyl-ethyl)-pyrrolidin-1-yl]-[7-(2-methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-methanone | OC(C)(C)[C@H]1N(CCC1)C(=O)C1=CC2=NC=CC(=C2S1)NC=1C=C2C=C(NC2=CC1)C | C24H26N4O2S
